US05502065
5-Carbamoyl-3-pyridyltri-n-butylstannane
3-Bromo-5-carbamoylpyridine was reacted with hexa(n-butyl)distannane in the presence of tri-o-tolylphosphine, triethylamine and palladium (II) acetate using a procedure similar to that described in Preparation 1. This yielded the title compound. Found: C,52.30; H,7.59; N,6.52; C18H32N2OSn requires: C,52.58; H,7.85; N,6.81.

reactant | 3-Bromo-5-carbamoylpyridine | BrC=1C=NC=C(C1)C(N)=O | C6H5BrN2O
reactant | hexa(n-butyl)distannane | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-Carbamoyl-3-pyridyltri-n-butylstannane | C(N)(=O)C=1C=C(C=NC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H5N2O.3C4H9.Sn/c7-6(9)5-2-1-3-8-4-5;3*1-3-4-2;/h2-4H,(H2,7,9);3*1,3-4H2,2H3;
